US07342115B2
A mixture of 6-chloro-4-isopropoxy-3-(5-isopropyl-2-methyl-phenoxymethyl)-2-methyl-pyridine (185 mg, 0.53 mmol), 3-isopropyl-1H-indazole-4-boronic acid (109 mg, 0.53 mmol), Pd(PPh3)4 (31 mg, 0.027 mmol), and Na2CO3 (169 mg, 1.6 mmol) in dioxane (8 mL) and water (2 mL) is heated for 24 hours at 100° C. The mixture is poured into water and extracted with EtOAc. The combined extract are dried (Na2SO4) and concentrated in vacuo. The residue is purified by flash chromatography (elution with MeOH/CH2Cl2 1:10) to yield 4-[4-isopropoxy-5-(5-isopropyl-2-methyl-phenyoxymethyl)-6-methyl-pyridin-2-yl]-3-isopropyl-1H-indazole. 1H NMR (CDCl3) 9.95 (br s, 1H), 7.45 (d, 1H), 7.39 (t, 1H), 7.13 (d, 1H), 7.09 (d, 1H), 6.92 (m, 2H), 6.78 (d, 1H), 5.20 (s, 2H), 4.68 (m, 1H), 3.19 (m, 1H), 2.88 (m, 1H), 2.64 (s, 3H), 2.20 (s, 3H), 1.99 (d, 6H), 1.24 (d, 6H), 1.11 (d, 6H). LCMS (m/z): 472.63 (MH)+

reactant | 6-chloro-4-isopropoxy-3-(5-isopropyl-2-methyl-phenoxymethyl)-2-methyl-pyridine | 0.53 mmol, 185 mg | ClC1=CC(=C(C(=N1)C)COC1=C(C=CC(=C1)C(C)C)C)OC(C)C | C20H26ClNO2
reactant | 3-isopropyl-1H-indazole-4-boronic acid | 0.53 mmol, 109 mg | C(C)(C)C1=NNC=2C=CC=C(C12)B(O)O | C10H13BN2O2
reactant | Na2CO3 | 1.6 mmol, 169 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.027 mmol, 31 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[4-isopropoxy-5-(5-isopropyl-2-methyl-phenyoxymethyl)-6-methyl-pyridin-2-yl]-3-isopropyl-1H-indazole | C(C)(C)OC1=CC(=NC(=C1COC1=C(C=CC(=C1)C(C)C)C)C)C1=C2C(=NNC2=CC=C1)C(C)C | C30H37N3O2
